data/nitro/train.csv
rxn,smiles,ea
D3,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[H:11])[H:12])(\[C:13]([H:14])=[C:15](/[H:16])[C:17]([H:18])([H:19])[H:20])[H:21]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[H:11])[H:12])(/[C:13]([H:14])=[C:15](\[H:16])[C:17]([H:18])([H:19])[H:20])[H:21],-6.6372474001507005
50,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[H:11])[Cl:12])(\[C:13]([H:14])([H:15])[H:16])[Cl:17]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[H:11])[Cl:12])([C:13]([H:14])([H:15])[H:16])[Cl:17],-13.599384692933006
733,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[N:11]([c:12]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[H:22])[H:23])[Cl:24])([c:25]1[c:26]([H:27])[c:28]([H:29])[c:30]([H:31])[c:32]([H:33])[c:34]1[H:35])[c:36]1[c:37]([H:38])[c:39]([H:40])[c:41]([H:42])[c:43]([H:44])[c:45]1[H:46]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([c:12]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[H:22])[H:23])[Cl:24])([c:25]1[c:26]([H:27])[c:28]([H:29])[c:30]([H:31])[c:32]([H:33])[c:34]1[H:35])[c:36]1[c:37]([H:38])[c:39]([H:40])[c:41]([H:42])[c:43]([H:44])[c:45]1[H:46],-3.330066649102283
877,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([c:12]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[H:22])[H:23])[H:24])(\[H:25])[Cl:26]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([c:12]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[H:22])[H:23])[H:24])([H:25])[Cl:26],-12.081703456784084
744,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[c:11]1[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]1[H:21])[Br:22])([c:23]1[c:24]([H:25])[c:26]([H:27])[c:28]([H:29])[c:30]([H:31])[c:32]1[H:33])[c:34]1[c:35]([H:36])[c:37]([H:38])[c:39]([H:40])[c:41]([H:42])[c:43]1[H:44]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[c:11]1[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]1[H:21])[Br:22])([c:23]1[c:24]([H:25])[c:26]([H:27])[c:28]([H:29])[c:30]([H:31])[c:32]1[H:33])[c:34]1[c:35]([H:36])[c:37]([H:38])[c:39]([H:40])[c:41]([H:42])[c:43]1[H:44],-1.890854845143755
194,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[H:11])[H:12])(\[C:13]([H:14])([H:15])[H:16])[H:17]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[H:11])[H:12])([C:13]([H:14])([H:15])[H:16])[H:17],-7.770741608464745
518,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[H:20])([Br:21])[Br:22]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[H:20])([Br:21])[Br:22],-7.535779470584635
153,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[C:11]([H:12])([H:13])[H:14])[H:15])(\[C:16]([H:17])([H:18])[H:19])[c:20]1[c:21]([H:22])[c:23]([H:24])[c:25]([H:26])[c:27]([H:28])[c:29]1[H:30]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[C:11]([H:12])([H:13])[H:14])[H:15])([C:16]([H:17])([H:18])[H:19])[c:20]1[c:21]([H:22])[c:23]([H:24])[c:25]([H:26])[c:27]([H:28])[c:29]1[H:30],-5.508082379821897
248,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[c:11]1[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]1[H:21])[C:22]([H:23])([H:24])[H:25])([Cl:26])[Cl:27]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[c:11]1[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]1[H:21])[C:22]([H:23])([H:24])[H:25])([Cl:26])[Cl:27],-5.856513917750166
330,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[H:11])[Cl:12])(\[Cl:13])[c:14]1[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]([H:22])[c:23]1[H:24]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[H:11])[Cl:12])([Cl:13])[c:14]1[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]([H:22])[c:23]1[H:24],-10.433417418999351
748,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[N:11]([C:12]([H:13])([H:14])[H:15])[H:16])[c:17]1[c:18]([H:19])[c:20]([H:21])[c:22]([H:23])[c:24]([H:25])[c:26]1[H:27])([c:28]1[c:29]([H:30])[c:31]([H:32])[c:33]([H:34])[c:35]([H:36])[c:37]1[H:38])[c:39]1[c:40]([H:41])[c:42]([H:43])[c:44]([H:45])[c:46]([H:47])[c:48]1[H:49]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([C:12]([H:13])([H:14])[H:15])[H:16])[c:17]1[c:18]([H:19])[c:20]([H:21])[c:22]([H:23])[c:24]([H:25])[c:26]1[H:27])([c:28]1[c:29]([H:30])[c:31]([H:32])[c:33]([H:34])[c:35]([H:36])[c:37]1[H:38])[c:39]1[c:40]([H:41])[c:42]([H:43])[c:44]([H:45])[c:46]([H:47])[c:48]1[H:49],0.1495022497760669
